US04107304
B. 1-Chlorocarbonyl-2-oxo-3-phenyl-imidazolidine
16.2 parts by wt. of 1-phenyl-2-oxo-imidazolidine were suspended in 160 parts by vol. of tetrahydrofurane and 12.0 parts by wt. of phosgene, dissolved in 30 parts by vol. of tetrahydrofurane, were added dropwise at 10° C. The mixture was then stirred for a further 4 hrs. at 10° C and left to stand overnight at 20° C, and the precipitate present was then filtered off, washed with tetrahydrofurane and dried.

reactant | 1-phenyl-2-oxo-imidazolidine | C1(=CC=CC=C1)N1C(NCC1)=O | C9H10N2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 1-Chlorocarbonyl-2-oxo-3-phenyl-imidazolidine | ClC(=O)N1C(N(CC1)C1=CC=CC=C1)=O | C10H9ClN2O2
